US07622471B2
3-Amino-1-benzhydrylazetidine
5% Palladium-carbon (200 mg) was added to 3-azido-1-benzhydrylazetidine (630 mg) obtained from Referential Example 104 in ethyl acetate (12 mL). The resultant mixture was subjected to catalytic reduction in a hydrogen atmosphere for 15 hours. The catalyst was filtered off. The solvent was evaporated under reduced pressure. The residue was purified through silica gel column chromatography (chloroform-methanol), to thereby give the title compound as a solid (410 mg, 65%).

reactant | 3-azido-1-benzhydrylazetidine | 630 mg | N(=[N+]=[N-])C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16N4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium-carbon | 200 mg | [C].[Pd]
product | 3-Amino-1-benzhydrylazetidine | 410 mg, 65% | NC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H18N2
